US07459554B2
{3-[8-Amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol:
A solution of {3-[1-(3-benzyloxyphenyl)-8-chloro-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol (40 mg, 0.095 mmol) in 5 mL of 2N NH3/iPrOH was cooled to −78° C. and charged with NH3 gas for 1 min. This sealed tube was equipped with a teflon O-ring, sealed and heated at 110° C. overnight. The mixture was cooled to rt and the cap was removed. The solution was concentrated under reduced pressure and the crude material was purified by silica gel column chromatography (eluting with 100% ethyl acetate→EtOAc:iPrOH=80:20), yielding the title compound as a white solid, a mixture of cis and trans isomers. MS (ES, Pos.): m/z 401 [MH+]. 1H NMR (CDCl3, 400 MHz) δ 2.37-2.44 (m, 2H), 2.61-2.74 (m, 3H), 3.65-3.82 (m, 3H), 5.03 (br s, 2H, NH2), 5.14 (s, 2H), 7.01-7.46 (m, 11H).

reactant | {3-[1-(3-benzyloxyphenyl)-8-chloro-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol | 0.095 mmol, 40 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)C2CC(C2)CO | C24H22ClN3O2
reactant | NH3 | N | H3N
solvent | NH3 iPrOH | 2N, 5 mL | N.CC(C)O
product | {3-[8-Amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)C2CC(C2)CO | C24H24N4O2
